US06603005B2
A mixture of 0.7 g of ethyl 1-(2-chloroethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride, 0.18 g of 2-mercaptothiazoline and 0.63 cm3 of triethylamine in 10 cm3 of dimethylformamide was stirred under an inert atmosphere for 23 hours at a temperature in the region of 80° C. After cooling to about 20° C., the reaction mixture was taken up in water, extracted with ethyl acetate and washed with saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was added to a solution of 0.18 g of 2-mercaptothiazoline and 0.06 g of 10% sodium hydride in 10 cm3 of dimethylformamide, and the mixture was then heated at a temperature in the region of 80° C. for 15 hours. After cooling to about 20° C., the reaction mixture was taken up in water, extracted with ethyl acetate and washed with saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under atmospheric pressure on a column of silica gel (particle size 70-200μ; diameter 2 cm; mass 40 g), eluting with a mixture of dichloromethane/ethanol (95/5 by volume) and collecting 10-cm3 fractions. Fractions 11 to 24 were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.15 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylate was obtained in the form of a brown oil.

reactant | ethyl 1-(2-chloroethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride | 0.7 g | Cl.Cl.ClCCN1CCC(CC1)(C(=O)OCC)CCCC1=C(C=NC2=CC=C(C=C12)OC)F
reactant | 2-mercaptothiazoline | 0.18 g | SC=1SCCN1 | C3H5NS2
reactant | triethylamine | 0.63 cm3 | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylate | 0.15 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC=1SCCN1)C(=O)OCC)OC | C26H34FN3O3S2
